Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
fall, rib fractures
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ with PMH significant for PTSD and ETOH abuse who fell out of 
bed while having a nightmare and fell onto a hard medical boot. 
He presented to OSH where CXR demonstrated 4 anterior rib fx on 
R ___. Given his multiple rib fractures, the patient was 
transferred to ___ for trauma evaluation and pain management. 
He has a known R proximal humerus fracture from trauma in 
___. He has been followed by OSH orthopedic surgeon with a 
plan to go to the OR soon. 

 
Past Medical History:
PTSD, ETOH abuse, spontaneous ptx s/p thoracoscopic 
blebectomy/pleurodesis, chronic low back pain with periodic 
injections, known R proximal humerus fx, fall from 3 stories as 
a child in a body cast

Past Surgical History:
L knee surgery x 2
R ankle surgery x 2
R thoracoscopic blebectomy/pleurodesis
R varicocele repair
rhinoplasty
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
EXAM ON ADMISSION:
Vitals:98.6 65 148/104 16 98%RA
GEN: A&O, NAD, thin appearing male
HEENT: No scleral icterus, mucus membranes moist
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, tenderness to palpation of the 
R chest. No crepitus. 
ABD: Soft, nondistended, nontender, no rebound or guarding,
Ext: No ___ edema, ___ warm and well perfused. Grossly deformed R 
shoulder/proximal humerus

EXAM ON DISCHARGE
V/S: T 97.7, HR 74, BP 129/83, RR 20, O2 96%RA 
Gen: thin-appearing man sitting in bed in NAD
HEENT: NCAT, MMM, EOMI
CV: RRR, no m/r/g, normal S1S2
Chest: CTAB, right chest wall tender to palpation. No crepitus
Abd: soft, non-tender, non-distended, +BS, no rebound or 
guarding
Ext: no pedal edema. DP pulses 2+ bilaterally. Grossly deformed 
right shoulder and proximal humerus. Range of motion of right 
shoulder limited.
Neuro: A&Ox3, CN XI-XII intact. Strength ___ in upper 
extremities, ___ in lower extremities, sensation intact.
 
Pertinent Results:
LABS ON ADMISSION:
___ 09:46PM   WBC-5.7 RBC-3.48* HGB-11.7* HCT-35.7* 
MCV-103* MCH-33.6* MCHC-32.8 RDW-13.6 RDWSD-52.1*
___ 09:46PM   NEUTS-66.8 LYMPHS-14.6* MONOS-12.8 EOS-4.9 
BASOS-0.7 IM ___ AbsNeut-3.81 AbsLymp-0.83* AbsMono-0.73 
AbsEos-0.28 AbsBaso-0.04
___ 09:46PM   PLT COUNT-294
___ 09:46PM   ___ PTT-29.8 ___
___ 09:46PM   GLUCOSE-82 UREA N-17 CREAT-0.5 SODIUM-137 
POTASSIUM-3.9 CHLORIDE-102 TOTAL CO2-25 ANION GAP-14

LABS ON DISCHARGE:
___ 06:20AM BLOOD WBC-3.9* RBC-3.45* Hgb-11.7* Hct-35.6* 
MCV-103* MCH-33.9* MCHC-32.9 RDW-13.2 RDWSD-50.3* Plt ___

MICROBIOLOGY:
None this admission

IMAGING:
Right rib XR @ ___ ___:
IMPRESSION: Acute fractures right seventh, eighth, ninth, ___ 
ribs. Old fracture right posterior fifth rib.

Right shoulder XR @ ___ ___:
FINDINGS:
Patient has a known comminuted fracture dislocation of the 
humeral
head and neck.
Although there is callus formation the subcutaneous soft 
tissues, the shaft is displaced medial to the head and has no 
contact with the other fragmented area there is no ___. 
Overall the findings do not appear significantly changed from CT 
scan ___.
 
Brief Hospital Course:
This is a ___ with a history of PTSD and ETOH abuse, who is 
status post fall from bed onto medical boot. He was found to 
have acute right ___ rib fractures on evaluation at 
___.

The patient was transferred from ___ to ___ in ___. 
He was admitted to the Acute Care Surgery service for pain 
control and incentive spirometry.

A tertiary trauma survey was performed and negative for new 
findings.

The patient's pain was initially controlled with a combination 
of oral and IV pain medications. Of note, the patient states 
that he takes oxycodone chronically at home. IV pain medications 
were stopped and the patient had acceptable pain control on only 
oral medications. He could take in over 2 liters on incentive 
spirometry on the day of discharge. It was explained that the 
patient will continue to have rib pain while his fractures heal, 
but he was amenable to going home where he could continue his 
recovery more comfortably. 

The patient complained of chronic weight loss, which is being 
managed by his PCP. Nutrition was consulted and recommended 
Ensure, which the patient is already drinking at home. He is 
actively trying to gain weight before having a large operation 
on his deformed right shoulder.

At the time of discharge, the patient was doing well and 
afebrile with stable vital signs. The patient was tolerating a 
regular diet, ambulating, voiding without assistance, and pain 
was acceptably controlled. The patient was discharged home 
without services. The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan. He was discharged on ___ 
with prescriptions for standing acetaminophen, ibuprofen, and 
lidocaine patches, as well as PRN oxycodone and an incentive 
spirometer. The patient was discharged with a follow-up 
appointment in place with his PCP for the ___ after 
discharge.
 
Medications on Admission:
(patient unsure of doses)
Prozac 2 pills/d
Oxycodone 15mg qid prn pain
valium tid
folic acid
 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every 8 hours Disp 
#*40 Tablet Refills:*0
2. Ibuprofen 400 mg PO Q8H:PRN pain 
RX *ibuprofen 200 mg 2 tablet(s) by mouth every 8 hours Disp 
#*40 Tablet Refills:*0
3. Lidocaine 5% Patch 1 PTCH TD QAM 
RX *lidocaine 5 % apply to broken ribs change every 3 days Disp 
#*15 Patch Refills:*0
4. OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every ___ hours Disp 
#*30 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right ___ rib fractures

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
You were admitted to ___ because you had a fall and had a 
fracture of your right ___ through 10th ribs. Your pain is now 
controlled on oral medications, so we are discharging you home 
to continue your recovery.

Please continue all of your home medications. Please take 
acetaminophen (Tylenol) and ibuprofen (Advil/Motrin) around the 
clock. We are also giving you a prescription for topical 
lidocaine patches, which you can apply over the broken ribs. We 
are also giving you a new prescription for oxycodone, which you 
can take for pain that isn't controlled by acetaminophen and 
ibuprofen.

Please follow up with your primary care doctor. If you have new 
concerns about your rib fractures, you may call our Acute Care 
Surgery Clinic for an appointment. Details are listed below.

* Your injury caused four rib fractures which can cause severe 
pain and subsequently cause you to take shallow breaths because 
of the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

It was a pleasure taking care of you.
-Your ___ Surgery Team

 
Followup Instructions:
___